US08378107B2
Step 3: (3-Bromo-quinolin-2-ylmethyl)-ethyl-carbamic acid tert-butyl ester
Prepared according to the procedure described in Example 5, Step 2, using the following starting materials: (3-bromo-quinolin-2-ylmethyl)-ethyl-amine and di-tert-butyl dicarbonate.

reactant | (3-bromo-quinolin-2-ylmethyl)-ethyl-amine | BrC=1C(=NC2=CC=CC=C2C1)CNCC | C12H13BrN2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | (3-Bromo-quinolin-2-ylmethyl)-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)CC1=NC2=CC=CC=C2C=C1Br)=O | C17H21BrN2O2
